US05024998
Preparation of 5'-Pivaloyltrifluorothymidine
To a stirring solution of 150 mg of trifluorothymidine in 5 mL of pyridine was added a solution of 90 mg of pivaloyl chloride in 1 mL of pyridine, with cooling. Stirring was continued at room temperature for 10 hours, then the reaction mixture was poured into 20 mL of ice water and extracted with 50 mL of ethyl acetate. The extract was washed with water and dried over sodium sulfate. The ethyl acetate was removed and the residue was purified by silica gel column chromatography using 20:1 chloroform/methanol as eluent. The title compound melted at 130°-132° C. after recrystallization from a mixture of ether and n-hexane.

reactant | trifluorothymidine | 150 mg | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C(F)(F)F)=C1 | C10H11F3N2O5
reactant | pivaloyl chloride | 90 mg | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 5'-Pivaloyltrifluorothymidine | C(C(C)(C)C)(=O)C([C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C(F)(F)F)=C1)O)O | C15H19F3N2O6
